US05567774
1. 1-Chloro-3-(1,1-Dimethylethoxy)-Propane, Lot 8864
A two liter, three-necked round bottom flask was fitted with a mechanical stirrer, a gas inlet tube, and a Claisen adapter equipped with a dry ice condenser, and a thermocouple. This apparatus was dried in an oven overnight at 125° C., assembled hot, and allowed to cool to room temperature in a stream of argon. The flask was charged with 141.81 grams (1.50 moles, 1.00 equivalent) of 3-chloro-1-propanol and 500 ml. of cyclohexane. The resultant two-phase solution was stirred at 400 RPMs. Amberlyst 15 resin catalyst, 35 grams, was added, followed by an additional 250 ml. of cyclohexane. A total of 93 grams (1.657 moles, 1.105 equivalents) of 2-methylpropene was discharged from the cylinder in two and a third hours. A modest exotherm was noted during the addition. The reaction mixture was stirred at 20°-25° C., and periodically monitored by gas chromatography (GC) for the disappearance of 3-chloro-1-propanol. After stirring at room temperature for twenty-eight hours, the conversion to the desired product was 94.7%. The catalyst was removed by filtration through a piece of fluted filter paper. The reaction flask was rinsed with fresh cyclohexane (2×100 ml.). The product was purified by distillation from 10.72 grams of potassium carbonate through a twelve inch Vigreux column, at atmospheric pressure. This afforded a clear, colorless oil, yield=158.42 grams (70.2%).

reactant | 3-chloro-1-propanol | 1.50 moles, 141.81 grams, 1.00 equivalent | ClCCCO | C3H7ClO
reactant | 2-methylpropene | 1.657 moles, 93 grams, 1.105 equivalents | CC(=C)C | C4H8
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-Chloro-3-(1,1-Dimethylethoxy)-Propane | ClCCCOC(C)(C)C | C7H15ClO
